US09120757B2
A mixture of 4-morpholinocyclohex-1-enyl trifluoromethanesulfonate (4 g, 12.69 mmol, 1.00 equiv), 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (3.87 g, 15.24 mmol, 1.20 equiv), potassium acetate (3.73 g, 38.01 mmol, 3.00 equiv) and Pd(dppf)Cl2 (930 mg, 1.27 mmol, 0.10 equiv) in 1,4-dioxane (100 mL) was refluxed under nitrogen for 12 h. The reaction mixture was cooled to room temperature, filtered and then concentrated under vacuum. The residue was purified on a silica gel column eluted with 50-100% of ethyl acetate in petroleum ether to give 3.2 g (86%) of 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-3-enyl)morpholine as a yellow oil. 1H-NMR (300 MHz, CDCl3): δ 6.60-6.55 (m, 1H), 3.80-3.66 (m, 4H), 2.70-2.25 (m, 8H), 2.20-1.90 (m, 4H), 1.25 (s, 12H) ppm.

reactant | 4-morpholinocyclohex-1-enyl trifluoromethanesulfonate | 12.69 mmol, 4 g, 1.00 equiv | FC(S(=O)(=O)OC1=CCC(CC1)N1CCOCC1)(F)F | C11H16F3NO4S
reactant | 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 15.24 mmol, 3.87 g, 1.20 equiv | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 38.01 mmol, 3.73 g, 3.00 equiv | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 1.27 mmol, 930 mg, 0.10 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-3-enyl)morpholine | 3.2 g, 86% | CC1(OB(OC1(C)C)C1=CCC(CC1)N1CCOCC1)C | C16H28BNO3
